US05491173
(a) Z-1,2-diphenyl-1-[4-(2-aminoethoxy)phenyl]-1-buten-4-ol
10.0 g of Z-1,2-diphenyl-1-[4-(bromoethoxy)phenyl]-1-buten-4-ol is added to200 ml of ethanol saturated with ammonia gas. The solution is stirred for 3hours at 90° C. in an autoclave. The solvent is evaporated and the residue is dissolved in ethyl acetate in the presence of 2M sodium hydroxide solution by warming the solution on a water bath. The organic layer is washed with water. The precipitated product is filtered off. The yield is 5.1 g (60%).

reactant | Z-1,2-diphenyl-1-[4-(bromoethoxy)phenyl]-1-buten-4-ol | 10.0 g | C1(=CC=CC=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)OCCBr | C24H23BrO2
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | Z-1,2-diphenyl-1-[4-(2-aminoethoxy)phenyl]-1-buten-4-ol | C1(=CC=CC=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)OCCN | C24H25NO2
